US08377923B2
A 2M methylamine-THF solution (20 ml) was added to a solution of triethylamine (7 ml) in dichloromethane (70 ml), a solution of 3-(trifluoromethyl)benzoyl chloride (5.0 g) in dichloromethane (30 ml) was added dropwise thereto under ice cooling, followed by stirring at room temperature for 72 hours. The reaction solution was poured into water, followed by extraction with chloroform. The organic layer was washed with saturated aqueous sodium bicarbonate solution and then saturated brine in this order and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The residue was dissolved again in ethyl acetate, washed with saturated aqueous sodium bicarbonate solution and then saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting solid was washed with diisopropylether, to obtain, as a colorless solid, N-methyl-3-(trifluoromethyl)benzamide (1.34 g).

reactant | methylamine THF | 2M, 20 ml | CN.C1CCOC1
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)benzoyl chloride | 5.0 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | water | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-methyl-3-(trifluoromethyl)benzamide | 1.34 g | CNC(C1=CC(=CC=C1)C(F)(F)F)=O | C9H8F3NO
